US04470988
A solution of 6-acetoxy-3,4,5,6-tetrahydro-1-benzazocin-2(1H)-one (7.4 g) in ethanol (250 ml) is hydrogenated at 45 psi at 70° C. using 10% palladium on charcoal (1.5 g) as catalyst. The catalyst is filtered off and the solvent removed under reduced pressure. The residue is recrystallized from methanol/ethyl acetate to give 3,4,5,6-tetrahydro-1-benzazocin-2(1H)-one.

reactant | 6-acetoxy-3,4,5,6-tetrahydro-1-benzazocin-2(1H)-one | 7.4 g | C(C)(=O)OC1CCCC(NC2=C1C=CC=C2)=O | C13H15NO3
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
product | 3,4,5,6-tetrahydro-1-benzazocin-2(1H)-one | N1C(CCCCC2=C1C=CC=C2)=O | C11H13NO
